US08058045B2
1-(4-((1-(tert-Butoxycarbonyl)piperidin-3-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylic acid (80 mg, 0.154 mmol) was dissolved in DMF (1.5 mL). 2-(tert-Butyldimethylsilyloxy)ethanamine (41 mg, 0.230 mmol), N-ethyldiisopropylamine (30 mg, 0.230 mmol), 1-hydroxy benzotriazole hydrate (31 mg, 0.230 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (44 mg, 0.23 mmol) were added to the solution and the reaction mixture was stirred for 14 h at room temperature. The solution was partitioned between dichloromethane and water. The two phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and evaporated to give tert-butyl 3-((5-(3-(2-(tert-butyldimethylsilyloxy)ethylcarbamoyl)-1H-pyrrol-1-yl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (80 mg, 78%) which was used in the next step without purification.

reactant | 1-(4-((1-(tert-Butoxycarbonyl)piperidin-3-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylic acid | 0.154 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CNC1=C(C=NC(=C1)NC1=NC=C(N=C1)C#N)N1C=C(C=C1)C(=O)O | C26H30N8O4
reactant | 2-(tert-Butyldimethylsilyloxy)ethanamine | 0.230 mmol, 41 mg | [Si](C)(C)(C(C)(C)C)OCCN | C8H21NOSi
reactant | N-ethyldiisopropylamine | 0.230 mmol, 30 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-hydroxy benzotriazole hydrate | 0.230 mmol, 31 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.23 mmol, 44 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-((5-(3-(2-(tert-butyldimethylsilyloxy)ethylcarbamoyl)-1H-pyrrol-1-yl)-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 80 mg, 78% | [Si](C)(C)(C(C)(C)C)OCCNC(=O)C1=CN(C=C1)C=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CN(CCC1)C(=O)OC(C)(C)C | C34H49N9O4Si
